US06878728B1
(3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-{4-[2-(acetylamino)ethoxy]benzyl}-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxypropylcarbamate (225)
A solution of 21 mg (0.033 mmol) of (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-[4-(2-aminoethoxy)benzyl]-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxypropylcarbamate in 2 mL of 1:1 THF/CH2Cl2 was treated with 9 μL (0.050 mmol) of N,N-diisopropylethylamine followed by 2.6 μL (0.036 mmol) of acetyl chloride. The resulting solution was stirred at RT. After 1.5 hours the solution was concentrated in vacuo and the residue subjected to flash chromatography (SiO2, 95:5 CH2Cl2/MeOH) to afford the desired compound in 86% yield as a white foam. 1H NMR (CDCl3): 7.29 (dd, 1H), 7.16-7.04 (m, 3H), 7.05 (d, 1H), 6.76 (d, 2H), 6.05 (s, 2H), 5.91 (br s, 1H), 5.01 (d, 1H), 5.05-4.89 (m, 2H), 3.94 (m, 3H), 3.80 (m, 3H), 3.72-3.51 (m, 5H), 3.08 (dd, 1H), 3.01-2.83 (m, 4H), 2.74 (m, 2H), 1.97 (s, 3H), 1.86-1.45 (m, 3H), 0.90 (d, 3H), 0.84 (d, 3H). MS(ESI): 678(M+H).

reactant | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-[4-(2-aminoethoxy)benzyl]-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxypropylcarbamate | 0.033 mmol, 21 mg | NCCOC1=CC=C(C[C@@H]([C@@H](CN(CC(C)C)S(=O)(=O)C2=CC3=C(OCO3)C=C2)O)NC(O[C@H]2CO[C@H]3OCC[C@H]32)=O)C=C1 | C30H41N3O10S
reactant | N,N-diisopropylethylamine | 0.050 mmol, 9 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 0.036 mmol, 2.6 μL | C(C)(=O)Cl | C2H3ClO
solvent | THF CH2Cl2 | 2 mL | C1CCOC1.C(Cl)Cl
product | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-{4-[2-(acetylamino)ethoxy]benzyl}-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxypropylcarbamate | 86% yield | C(C)(=O)NCCOC1=CC=C(C[C@@H]([C@@H](CN(CC(C)C)S(=O)(=O)C2=CC3=C(OCO3)C=C2)O)NC(O[C@H]2CO[C@H]3OCC[C@H]32)=O)C=C1 | C32H43N3O11S
